US04122274
9-Methyl-3-(1H-tetrazol-5-yl)-4H-pyrido[1,2-a]pyrimidin-4-one
Aluminum chloride (3.51 g., 0.0263 mole) was added to cold (-30°) tetrahydrofuran (180 ml.). Sodium azide (5.12 g., 0.0788 mole) was added and the mixture heated under reflux for 30 minutes. The mixture was cooled to 5°. Ethyl 2-cyano-3-(3-methyl-2-pyridylamino)acrylate (5.0 g., 0.0216 mole) was added and the mixture heated under reflux for 18 hours. The tetrahydrofuran was removed under reduced pressure. The residue was treated with ice water (100 ml.) and acidified to pH 3 with 6N hydrochloric acid. The mixture was filtered and the collected solid recrystallized from N,N-dimethylformamide to give the title compound (2.5 g., 50.7%), m.p. 310°-311° (decomp).

reactant | Aluminum chloride | 0.0263 mole, 3.51 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | Sodium azide | 0.0788 mole, 5.12 g | [N-]=[N+]=[N-].[Na+]
reactant | Ethyl 2-cyano-3-(3-methyl-2-pyridylamino)acrylate | 0.0216 mole, 5.0 g | C(#N)C(C(=O)OCC)=CNC1=NC=CC=C1C | C12H13N3O2
solvent | tetrahydrofuran | 180 ml | O1CCCC1 | C4H8O
product | 9-Methyl-3-(1H-tetrazol-5-yl)-4H-pyrido[1,2-a]pyrimidin-4-one | 2.5 g, 50.7% | CC1=CC=CN2C1=NC=C(C2=O)C2=NN=NN2 | C10H8N6O
